US07078428B2
A mixture of 5.0 g (33.3 mmol) of 2-formylbenzoic acid and 14.5 g (40.0 mmol) of ethyl 2-(triphenylphosphanylidene)propionate in 100 cm3 of dimethylformamide is stirred at a temperature in the region of 20° C. for 1 hour. After removal of the solvent, the residue is dissolved in dichloromethane and then extracted twice with sodium bicarbonate solution. The aqueous phases are combined, washed with dichloromethane and then acidified with aqueous 6N hydrochloric acid solution to a pH of between 1 and 2. After extracting twice with dichloromethane, the organic phases are combined, dried over magnesium sulfate and then concentrated. 2-(2-Ethoxycarbonylpropen-1-yl)benzoic acid is thus obtained in the form of a yellow oil, which is used directly in the following step without further purification

reactant | 2-formylbenzoic acid | 33.3 mmol, 5.0 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | ethyl 2-(triphenylphosphanylidene)propionate | 40.0 mmol, 14.5 g | C1(=CC=CC=C1)P(=C(C(=O)OCC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
product | 2-(2-Ethoxycarbonylpropen-1-yl)benzoic acid | C(C)OC(=O)C(=CC1=C(C(=O)O)C=CC=C1)C | C13H14O4
